US04292317
13.5 g of 7-chloro-3-ethoxycarbonyl-6-fluoro-4-hydroxyquinoline and 13.8 g of potassium carbonate in 160 cm3 of DMF were stirred and heated at 110° C. for 1 hour in a round-bottomed flask equipped with a reflux condenser. After cooling to 60° C., the solution was treated with 24 g of allyl bromide. The mixture was stirred and heated at 100° C. until the medium was neutral (duration: about 6 hours). The solvent was evaporated off in vacuo, the residue was taken up in 300 cm3 of water and the reaction product was extracted with chloroform (3×100 cm3). The combined organic extracts were washed with water, dried (MgSO4) and evaporated to dryness. The residue was recrystallised from 72 cm3 of isopropanol. 12 g of 1-allyl-7-chloro-3-ethoxycarbonyl-6-fluoro-4-oxo-1,4-dihydroquinoline, m.p.=162°-164° C., were obtained.

reactant | 7-chloro-3-ethoxycarbonyl-6-fluoro-4-hydroxyquinoline | 13.5 g | ClC1=C(C=C2C(=C(C=NC2=C1)C(=O)OCC)O)F | C12H9ClFNO3
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 24 g | C(C=C)Br | C3H5Br
solvent | DMF | 160 cm3 | CN(C)C=O | C3H7NO
product | 1-allyl-7-chloro-3-ethoxycarbonyl-6-fluoro-4-oxo-1,4-dihydroquinoline | 12 g | C(C=C)N1C=C(C(C2=CC(=C(C=C12)Cl)F)=O)C(=O)OCC | C15H13ClFNO3
